US06130187
Preparation of 3-[4-chloro-6-fluoro-2-(1-dimethylaminoethyl)benzofuran-7-yl]-1-methyl-6-trifluoromethyluracil (Compound No. 572)
0.5 g (1.2 mmol) of 3-[4-chloro-6-fluoro-2-(1-methylaminoethyl)benzofuran-7-yl]-1-methyl-6-trifluoromethyluracil and 0.40 g (2.9 mmol) of potassium carbonate were suspended in 50 ml of N,N-dimethylformamide, and 1.0 g (7.0 mmol) of methyl iodide was added thereto, followed by stirring at 60° C. for 2 hours. After completion of the reaction, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.35 g (yield: 68%) of the desired product as a purple glassy substance. Refractive index: 1.5341 (20° C.)

reactant | 3-[4-chloro-6-fluoro-2-(1-methylaminoethyl)benzofuran-7-yl]-1-methyl-6-trifluoromethyluracil | 1.2 mmol, 0.5 g | ClC1=CC(=C(C2=C1C=C(O2)C(C)NC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C17H14ClF4N3O3
reactant | potassium carbonate | 2.9 mmol, 0.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 7.0 mmol, 1.0 g | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[4-chloro-6-fluoro-2-(1-dimethylaminoethyl)benzofuran-7-yl]-1-methyl-6-trifluoromethyluracil | 0.35 g, yield: 68% | ClC1=CC(=C(C2=C1C=C(O2)C(C)N(C)C)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C18H16ClF4N3O3
